US05834501
5-{4-(5-Hydroxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}thiazolidine-2,4-dione (Compound No. 1-153)
A procedure similar to that described in Example 6 was repeated, except that 1.20 g of 5-{4-(5-benzyloxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 95), 1.80 g of 10% w/w palladium-on-charcoal and 50 ml of methanol were used, and that the product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and methanol in ratios ranging from 1:0 to 10:1 by volume as the eluent, to give 0.10 g of the title compound, melting at 240°-242° C.

reactant | 5-{4-(5-benzyloxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.20 g | C(C1=CC=CC=C1)OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C44H36N4O4S
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 5-{4-(5-Hydroxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}thiazolidine-2,4-dione | 0.10 g | OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2)C | C18H16N4O4S
